US07754737B2
To a solution of (3R)-3-((S)-1-(2-(2-ethylphenoxy)phenyl)-1-hydroxy-5-methoxypentyl)-N—((R)-1-hydroxy-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-yl)piperidine-1-carboxamide (10.0 mg, 0.01 mmol) in acetonitrile (1.0 mL) was added excess tetraethylammonium fluoride. The resulting solution was heated at 50° C. for 2 h, and concentrated under vacuum. The residue was purified by prep HPLC to give (3R)-3-((S)-1-(2-(2-ethylphenoxy)phenyl)-1-hydroxy-5-methoxypentyl)-N—((R)-1-hydroxy-3-(methylamino)propan-2-yl)piperidine-1-carboxamide (2 mg) as its TFA salt. 1H NMR (400 MHz, CD3OD) 7.62 (d, 1H), 7.32 (d, 1H), 7.04-7.20 (m, 4H), 6.74 (d, 1H), 6.56 (d, 1H), 4.40 (d, 1H), 4.00 (m, 1H), 3.92 (d, 1H), 3.60 (m, 1H), 3.54 (m, 1H), 3.26 (t, 2H), 3.24 (s, 3H), 3.22 (m, 1H), 3.04 (m, 1H), 2.82 (m, 1H), 2.64 (s, 3H), 2.62 (q, 2H), 2.42 (m, 2H), 1.94 (m, 1H), 1.24-1.64 (m, 7H), 1.08 (t, 3H), 0.98 (m, 1H); MS m/z 528 (M+H+).

reactant | (3R)-3-((S)-1-(2-(2-ethylphenoxy)phenyl)-1-hydroxy-5-methoxypentyl)-N—((R)-1-hydroxy-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-yl)piperidine-1-carboxamide | 0.01 mmol, 10.0 mg | C(C)C1=C(OC2=C(C=CC=C2)[C@@](CCCCOC)(O)[C@H]2CN(CCC2)C(=O)N[C@@H](CO)CN(C(=O)OCC[Si](C)(C)C)C)C=CC=C1 | C36H57N3O7Si
reactant | tetraethylammonium fluoride | [F-].C(C)[N+](CC)(CC)CC
solvent | acetonitrile | 1.0 mL | C(C)#N | C2H3N
product | (3R)-3-((S)-1-(2-(2-ethylphenoxy)phenyl)-1-hydroxy-5-methoxypentyl)-N—((R)-1-hydroxy-3-(methylamino)propan-2-yl)piperidine-1-carboxamide | 2 mg | C(C)C1=C(OC2=C(C=CC=C2)[C@@](CCCCOC)(O)[C@H]2CN(CCC2)C(=O)N[C@@H](CO)CNC)C=CC=C1 | C30H45N3O5
